data/mechanism_extracts/JOC/10.1021_acs.joc.3c02001.json
{"doi": "10.1021_acs.joc.3c02001", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical difluoromethylation-carboxylation and -deuteration of alkenes using difluoromethyltriphenylphosphonium bromide as a CF2H radical precursor with CO2 or D2O as electrophile", "mechanism_family": ["radical_cathodic", "radical_polar_crossover", "sacrificial_anode"], "electrochemical_role": "Cathodic reduction of [Ph3PCF2H]+Br- generates a CF2H radical; the benzylic radical adduct is further cathodically reduced to a benzyl anion which traps CO2 or D2O; Al anode is sacrificially oxidized to Al3+", "key_intermediates": [{"name": "CF2H radical from cathodic reduction of phosphonium salt", "smiles": "[CH](F)F", "role": "reactive"}, {"name": "Benzylic radical A from CF2H addition to alkene", "smiles": null, "role": "reactive"}, {"name": "Benzyl anion B from further cathodic reduction of A", "smiles": null, "role": "reactive"}, {"name": "Alkene radical anion C (minor pathway)", "smiles": null, "role": "transient"}, {"name": "Triphenylphosphine byproduct", "smiles": "c1ccc(P(c2ccccc2)c2ccccc2)cc1", "role": "off_pathway"}], "electron_flow": "Cathode reduces [Ph3PCF2H]+ to give CF2H radical (extruding PPh3); the CF2H radical adds to the alkene to form a benzylic radical, which is reduced again at the cathode to a benzyl anion that attacks CO2 (then esterified with TMSCHN2) or D2O. Al anode is oxidized sacrificially.", "rate_determining_step": null, "probe_reagents": [{"name": "(1-cyclopropylvinyl)benzene radical clock with D2O", "smiles": "C(=C)(C1CC1)c1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened HF2C-CH=CH-CH2-CH(Ph)-D product detected by HRMS, supporting CF2H radical intermediate"}, {"name": "(1-cyclopropylvinyl)benzene radical clock with CO2", "smiles": "C(=C)(C1CC1)c1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened product with CF2H and COOH groups detected by HRMS, supporting radical intermediate"}, {"name": "1,1-Diphenylethylene with D2O", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "isotope_label", "observation": "Product formed in 63% yield with 86% D incorporation, consistent with benzyl anion intermediate trapped by D2O"}, {"name": "Cyclic voltammetry of phosphonium salt and DPE", "smiles": null, "purpose": "redox_probe", "observation": "[Ph3PCF2H]+Br- is more easily reduced (-1.640 V) than 1,1-diphenylethylene (-2.562 V); mixture shows new wave suggesting radical anion of alkene possible at more negative potentials"}], "evidence_types_used": ["radical_clock", "H/D_labeling", "cyclic_voltammetry", "product_isotope_distribution", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Authors propose a minor pathway where the alkene is reduced to its radical anion C, which couples with CF2H radical to give anion B (radical-radical coupling); the major pathway is sequential CF2H radical addition followed by second cathodic reduction to the benzyl anion. X-ray structure (CCDC 2281142) of carboxylation product A-1 confirms regiochemistry. Monosubstituted alkenes give low yields due to instability of intermediate relative to diphenyl-stabilized anions."}
